US07319108B2
4-(3-Dimethylaminopyrrolidin-1-yl)benzohydrazide
A mixture of ethyl 4-(3-dimethylaminopyrrolidin-1-yl)benzoate (2.0 g), hydrazine hydrate (3.8 g) and ethanol (7 ml) was boiled under reflux for 15 hours. After cooling to 5° C., the resulting precipitate was filtered off with suction. The product with the molecular weight of 248.33 (C13H20N4O) was obtained in this way; MS (ESI): 249 (M+H+).

reactant | ethyl 4-(3-dimethylaminopyrrolidin-1-yl)benzoate | 2.0 g | CN(C1CN(CC1)C1=CC=C(C(=O)OCC)C=C1)C | C15H22N2O2
reactant | hydrazine hydrate | 3.8 g | O.NN
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 4-(3-Dimethylaminopyrrolidin-1-yl)benzohydrazide | CN(C1CN(CC1)C1=CC=C(C(=O)NN)C=C1)C | C13H20N4O
